US05157041
0.11 g of N2 -[3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-4(S)-hydroxy-L-prolinamide was dissolved in 10 ml of ethanol and hydrogenated over 20 mg of 10% palladium-on-carbon at room temperature and under atmospheric pressure for 2 hours. The catalyst was filtered off and the filtrate was evaporated to give 0.08 g of N2 -[3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-4(S)-hydroxy-L-prolinamide as a gum which was used without further purification.

reactant | N2 [3(S)-(benzyloxyformamido)-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-4(S)-hydroxy-L-prolinamide | 0.11 g | N#N.C(C1=CC=CC=C1)OC(=O)N[C@H]([C@@H](C[C@@]1(N(C[C@H](C1)O)C(C)(C)C)C(=O)N)O)CC1=CC=CC=C1
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 20 mg | [Pd] | Pd
product | N2 [3(S)-amino-2(R)-hydroxy-4-phenylbutyl]-N1 -tert.butyl-4(S)-hydroxy-L-prolinamide | 0.08 g | N#N.N[C@H]([C@@H](C[C@@]1(N(C[C@H](C1)O)C(C)(C)C)C(=O)N)O)CC1=CC=CC=C1 | InChI=1S/C19H31N3O3.N2/c1-18(2,3)22-12-14(23)10-19(22,17(21)25)11-16(24)15(20)9-13-7-5-4-6-8-13;1-2/h4-8,14-16,23-24H,9-12,20H2,1-3H3,(H2,21,25);/t14-,15-,16+,19+;/m0./s1
